US05968985
To a mixture of phosphorus oxychloride (3 g) and N-methylformanilide (3 g) was added a solution of methyl 3-(benzofuran-3-yl)benzoate (3 g) in N-methylformamide (1.5 g) at room temperature. The mixture was stirred overnight at room temperature and was poured onto aqueous sodium acetate solution. The product was extracted with ethyl acetate and the organic layer was washed with hydrochloric acid solution, water and brine. The layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (5:1) to afford methyl 3-(2-formylbenzofuran-3-yl)benzoate (2.39 g).

reactant | phosphorus oxychloride | 3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-methylformanilide | 3 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | methyl 3-(benzofuran-3-yl)benzoate | 3 g | O1C=C(C2=C1C=CC=C2)C=2C=C(C(=O)OC)C=CC2 | C16H12O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | N-methylformamide | 1.5 g | CNC=O | C2H5NO
product | methyl 3-(2-formylbenzofuran-3-yl)benzoate | 2.39 g | C(=O)C=1OC2=C(C1C=1C=C(C(=O)OC)C=CC1)C=CC=C2 | C17H12O4
